US08754101B2
Intermediate 5: cis-3-[(Imidazo[1,2-a]pyridin-8-ylmethyl)amino]cyclobutanol
To an emulsion of cis-3-aminocyclobutanol hydrochloride (1.254 g, 10.15 mmol) in DCM (15 mL) was added MeOH (60 mL), imidazo[1,2-a]pyridine-8-carbaldehyde (1.5 g, 10.26 mmol) and DIPEA (2 mL, 11.45 mmol) and the reaction mixture stirred at room temperature under nitrogen for 10 minutes. Sodium triacetoxyborohydride (5.4 g, 25.5 mmol) was then added and the reaction mixture stirred under nitrogen for 18 hours and then concentrated in vacuo. The residue was dissolved in DCM (200 mL), aqueous sodium hydroxide (2M, 200 mL) was added and the mixture was stirred at room temperature for 1 hour. The layers were separated and to the aqueous phase was added sodium hydroxide pellets (ca. 5 g) which was then extracted with 3:1 chloroform:isopropanol (2×500 mL). The combined organic extracts were dried using a hydrophobic frit, evaporated in vacuo and the residue was dissolved in DCM and purified on a silica cartridge (100 g) using a 0-25% methanol-DCM gradient over 60 min. The product containing fractions were combined and evaporated in vacuo to give the title compound as an orange oil (2.3 g).

reactant | cis-3-aminocyclobutanol hydrochloride | 10.15 mmol, 1.254 g | Cl.N[C@H]1C[C@H](C1)O
reactant | imidazo[1,2-a]pyridine-8-carbaldehyde | 10.26 mmol, 1.5 g | N=1C=CN2C1C(=CC=C2)C=O | C8H6N2O
reactant | DIPEA | 11.45 mmol, 2 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | Sodium triacetoxyborohydride | 25.5 mmol, 5.4 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | 60 mL | CO | CH4O
product | cis-3-[(Imidazo[1,2-a]pyridin-8-ylmethyl)amino]cyclobutanol | 2.3 g | N=1C=CN2C1C(=CC=C2)CN[C@H]2C[C@H](C2)O | C12H15N3O
